US04030925
32. 1-(4-Chlorobenzoyl)-2-(4-nitrophenyl)hydrazine
4-Nitrophenylhydrazine (32.0 g, 0.21 mole) was slurried in acetonitrile (500 ml) and the mixture was cooled to 0° C. A solution of 4-chlorobenzoyl chloride (17.5 g, 0.10 mole) in acetonitrile (25 ml) was added dropwise to the cooled slurry. The reaction mixture was allowed to stand overnight. The mixture was filtered and the solid was washed with acetonitrile, then thoroughly with water. The product was recrystallized from acetonitrile and decolorized with charcoal to give a pale yellow solid. Yield 24.8 g (85%) m.p. 245.5°-248.5° C.

reactant | 4-Nitrophenylhydrazine | 0.21 mole, 32.0 g | [N+](=O)([O-])C1=CC=C(C=C1)NN | C6H7N3O2
reactant | 4-chlorobenzoyl chloride | 0.10 mole, 17.5 g | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
solvent | acetonitrile | 500 ml | C(C)#N | C2H3N
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
product | 1-(4-Chlorobenzoyl)-2-(4-nitrophenyl)hydrazine | ClC1=CC=C(C(=O)NNC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C13H10ClN3O3
